US07112676B2
A solution of diisopropylamine (1.1 mL; 7.85 mmol) (Aldrich) and freshly distilled tetrahydrofuran (15 mL) was cooled to −78° C. n-Butyllithium (2.5M in hexanes; 3.1 mL; 7.75 mmol) (Aldrich) was added dropwise and stirring continued for 40 minutes to prepare a LDA solution. 2,4-Dichloropyrimidine (0.50 g; 3.37 mmol) (Aldrich) in tetrahydrofuran (3 mL) was then added dropwise to this freshly prepared LDA solution over 15 minutes. After stirring for 40 minutes, isobutyraldehyde (0.61 mL; 6.72 mmol) (Aldrich) was added over 6 minutes and stirring continued for another 30 minutes. The reaction was quenched with the addition of 25% aqueous ammonium chloride solution (20 mL) and then diluted with ethyl acetate and water. The organic phase was washed with a second portion of aqueous ammonium chloride solution and then brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (Biotage 40S; 10:90 to 15:85 ethyl acetate-hexanes gradient) to give (±)-1-(2,4-dichloro-pyrimidin-5-yl)-2-methyl-propan-1-ol. (Yield 0.25 g; 33.4%).

reactant | diisopropylamine | 7.85 mmol, 1.1 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 7.75 mmol, 2.5M, 3.1 mL | C(CCC)[Li]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2,4-Dichloropyrimidine | 3.37 mmol, 0.50 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | isobutyraldehyde | 6.72 mmol, 0.61 mL | C(C(C)C)=O | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (±)-1-(2,4-dichloro-pyrimidin-5-yl)-2-methyl-propan-1-ol | ClC1=NC=C(C(=N1)Cl)C(C(C)C)O | C8H10Cl2N2O
